US07511041B2
2-Aminobenzonitrile (9.00 g, 76.2 mmol) was added at 0° C. to ethylenediamine (25.5 ml, 381 mmol) in small portions with stirring. After phosphorus pentasulfide (200 mg, 0.900 mmol) was added, the mixture was stirred at 100° C. overnight. After cooling to 0° C., the reaction was diluted with water. The resulting white precipitate was collected by filtration, washed with water and diethyl ether, and dried under reduced pressure to give 2-(4,5-dihydro-1H-imidazol-2-yl)aniline (10.0 g, 81% yield).

reactant | 2-Aminobenzonitrile | 76.2 mmol, 9.00 g | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | ethylenediamine | 381 mmol, 25.5 ml | C(CN)N | C2H8N2
solvent | water | O | H2O
catalyst | phosphorus pentasulfide | 0.900 mmol, 200 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
product | 2-(4,5-dihydro-1H-imidazol-2-yl)aniline | 10.0 g, 81% yield | N1C(=NCC1)C1=C(N)C=CC=C1 | C9H11N3
